US04212813
8 g of acenaphthene, 0.45 g of cobalt acetate tetrahydrate, 0.045 g of manganese acetate tetrahydrate, 0.045 g of NaBr, 0.17 ml of triethanolamine, 30 ml of acetic acid, and 50 ml of chlorobenzene were charged in the same manner as in Example 1. The air in the system was substituted with oxygen gas and the system was heated to 65° C., the reaction setting in. Acetic anhydride was dropped while gradually heating the reaction system for reaction. The reaction was continued for 42 hours during which the reaction temperature was increased up to 90° C. The total amount of absorbed oxygen reached 3170 ml and acetic anhydride was added in an amount of 7 ml. After completion of the reaction, the reaction mixture was cooled to allow crystals to precipitate and the crystals were separated by filtration, washed with water and dried to obtain 8.1 g of yellowish white naphthalic anhydride (yield 79%).

reactant | acenaphthene | 8 g | C1CC2=CC=CC3=CC=CC1=C23 | C12H10
reactant | NaBr | 0.045 g | [Na+].[Br-]
reactant | triethanolamine | 0.17 ml | N(CCO)(CCO)CCO | C6H15NO3
reactant | oxygen | O=O | O2
reactant | Acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
catalyst | cobalt acetate tetrahydrate | 0.45 g | O.O.O.O.C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
catalyst | manganese acetate tetrahydrate | 0.045 g | O.O.O.O.C(C)(=O)[O-].[Mn+2].C(C)(=O)[O-]
solvent | chlorobenzene | 50 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | naphthalic anhydride | 8.1 g, yield 79% | C1(=CC=CC2=CC=CC=C12)C(=O)OC(=O)C1=CC=CC2=CC=CC=C12 | C22H14O3
